US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Boc-L-threonineamide
One-thousand milligrams (2.65 mmols) of (E)-3-(3-amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile hydrochloride, 1,300 mg of a BOP reagent and 880 mg of Boc-L-Thr (OtBu) were dissolved in 50 ml of acetonitrile, and 0.8 ml of triethylamine were added thereto. The mixture was reacted at 60° C. for 21 hours. One-hundred milliliters of water and a small amount of sodium hydrogencarbonate were added thereto, and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The product was purified using a silica-gel column (eluent, mixture of ethyl acetate and hexane at a ratio by volume of 5:1), and then concentrated to produce 870 mg (1.46 mmols) of the final product in a yield of 55%.

reactant | (E)-3-(3-amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile hydrochloride | 2.65 mmols, One-thousand milligrams | Cl.NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC
reactant | BOP reagent | 1,300 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Boc-L-Thr | 880 mg | N([C@@H]([C@H](O)C)C(=O)O)C(=O)OC(C)(C)C | C9H17NO5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | One-hundred milliliters | O | H2O
solvent | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Boc-L-threonineamide | 1.46 mmols, 870 mg, yield of 55% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OC(C)(C)C)N[C@@H]([C@H](O)C)C(=O)N | InChI=1S/C19H20N2O4.C9H18N2O4/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;1-5(12)6(7(10)13)11-8(14)15-9(2,3)4/h5-10H,21H2,1-4H3;5-6,12H,1-4H3,(H2,10,13)(H,11,14)/b14-7-;/t;5-,6+/m.1/s1
